US08623859B2
N-({5-[(4-{[1-(2-Hydroxy-2-methylpropyl)piperidin-4-yl]methyl}piperazin-1-yl)carbonyl]-1,3,4-oxadiazol-2-yl}methyl)-4-methoxy-N,2,6-trimethylbenzenesulfonamide
4-methoxy-N,2,6-trimethyl-N-[(5-{[4-(piperidin-4-ylmethyl)piperazin-1-yl]carbonyl}-1,3,4-oxadiazol-2-yl)methyl]benzenesulfonamide (34 mg, 0.066 mmol) and 2,2-dimethyloxirane (1 mL, 13.8 mmol) were dissolved in DMF (1 mL) and the reaction heated to 70° C. in a sealed tube for 6 h. The reaction was cooled and concentrated in vacuo and the crude product purified using prep method B to afford the title compound.

reactant | 4-methoxy-N,2,6-trimethyl-N-[(5-{[4-(piperidin-4-ylmethyl)piperazin-1-yl]carbonyl}-1,3,4-oxadiazol-2-yl)methyl]benzenesulfonamide | 0.066 mmol, 34 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC(=NN1)C(=O)N1CCN(CC1)CC1CCNCC1)C)C | C24H36N6O5S
reactant | 2,2-dimethyloxirane | 13.8 mmol, 1 mL | CC1(OC1)C | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-({5-[(4-{[1-(2-Hydroxy-2-methylpropyl)piperidin-4-yl]methyl}piperazin-1-yl)carbonyl]-1,3,4-oxadiazol-2-yl}methyl)-4-methoxy-N,2,6-trimethylbenzenesulfonamide | OC(CN1CCC(CC1)CN1CCN(CC1)C(=O)C1=NN=C(O1)CN(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C)(C)C | C28H44N6O6S
